US09233956B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (100 mg, 0.291 mmol) and furan-2-sulfonyl chloride (72 mg, 0.437 mmol), the title compound was obtained as a white solid (87 mg, 63% yield). MS (ESI): 474 [M+H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.291 mmol, 100 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | furan-2-sulfonyl chloride | 0.437 mmol, 72 mg | O1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO3S
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H20FN5O3S2
